US08022205B2
4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid methyl-(3-piperazin-1-yl-phenyl)-amide (D-154)
Using 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (3-bromo-phenyl)-methyl-amide (70.5 mg) and N-Boc-piperazine (34.9 mg) instead of 2-piperazin-1-yl-ethanol, in the same manner as Step C in Example 1-D-153, 4-{3-[(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carbonyl)-methyl-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester was obtained as a crude product. Further, PMB group and BOC group were removed according to Deprotection method 3, to obtain the desired compound (D-154) as a yellow solid (37.9 mg, 78%).

reactant | 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid (3-bromo-phenyl)-methyl-amide | 70.5 mg | BrC=1C=C(C=CC1)N(C(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2)C | C38H39BrN8O4
reactant | N-Boc-piperazine | 34.9 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 4-{3-[(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carbonyl)-methyl-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)N(C)C(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C47H56N10O6
product | 4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid methyl-(3-piperazin-1-yl-phenyl)-amide | 37.9 mg, 78% | CN(C(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2)C2=CC(=CC=C2)N2CCNCC2 | C26H32N10O2
